US05650410
A mixture of benzyl 4-bromobutanoate (58.6 diethylamine (58.3 g) and dichloromethane (1000 ml) was stirred under reflux for 14 hours. The reaction mixture was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate gave benzyl 4-(N,N-diethylamino)butanoate (33.8 g, 60%).

reactant | benzyl 4-bromobutanoate | BrCCCC(=O)OCC1=CC=CC=C1 | C11H13BrO2
reactant | diethylamine | 58.3 g | C(C)NCC | C4H11N
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | benzyl 4-(N,N-diethylamino)butanoate | 33.8 g, 60% | C(C)N(CC)CCCC(=O)OCC1=CC=CC=C1 | C15H23NO2
